** sch_path: /home/designer/shared/FloatingGateDCDC/schematic/xschem/Full_Layout.sch
.subckt Full_Layout Vsource VBAT VBAT2 IN VH VDD VHLS Vout Vddls VSS Vs
*.PININFO Vsource:B Vout:B VH:B VSS:B VHLS:B Vddls:B Vs:B VBAT:B IN:B VBAT2:B VDD:B
M2 VSS net1 Vout VSS sg13_hv_nmos w=10u l=0.45u ng=1 m=4080
M1 Vout TRIG VH Vout sg13_hv_nmos w=10u l=0.45u ng=1 m=4080
MD9 VgMD2 Vs Vddls Vddls sg13_lv_pmos w=1.12u l=0.13u ng=1 m=2
MD10 VSS Vs VgMD2 VSS sg13_lv_nmos w=1.12u l=0.13u ng=1 m=2
MD1 VgMD5 VgMD1 VHLS VHLS sg13_hv_pmos w=10u l=0.4u ng=1
MD3 VgMD1 VgMD5 VHLS VHLS sg13_hv_pmos w=10u l=0.4u ng=1
MD5 VgMD78 VgMD5 VHLS VHLS sg13_hv_pmos w=10u l=0.4u ng=1 m=30
MD7 net1 VgMD78 VHLS VHLS sg13_hv_pmos w=10u l=0.4u ng=1 m=250
MD2 VSS VgMD2 VgMD5 VSS sg13_hv_nmos w=10u l=0.45u ng=1 m=6
MD4 VSS Vs VgMD1 VSS sg13_hv_nmos w=10u l=0.45u ng=1 m=6
MD6 VSS Vs VgMD78 VSS sg13_hv_nmos w=10u l=0.45u ng=1 m=25
MD8 VSS VgMD78 net1 VSS sg13_hv_nmos w=10u l=0.45u ng=1 m=200
M3 RESET SET Vboot Vboot sg13_hv_pmos w=5u l=1u ng=1
M4 SET SET Vboot Vboot sg13_hv_pmos w=0.5u l=1u ng=1
M5 SET RESET Vboot Vboot sg13_hv_pmos w=5u l=1u ng=1
M6 RESET RESET Vboot Vboot sg13_hv_pmos w=0.5u l=1u ng=1
M7 net2 RESET Vboot Vboot sg13_hv_pmos w=1u l=0.5u ng=1
M8 SET SET net2 net2 sg13_hv_pmos w=1u l=0.5u ng=1
M9 net3 SET Vboot Vboot sg13_hv_pmos w=1u l=0.5u ng=1
M10 RESET RESET net3 net3 sg13_hv_pmos w=1u l=0.5u ng=1
M11 net6 VRE SET VSS sg13_hv_nmos w=30u l=0.5u ng=5
M12 net6 VFE RESET VSS sg13_hv_nmos w=30u l=0.5u ng=5
M13 VSS VBAT2 VBAT2 VSS sg13_hv_nmos w=200u l=2u ng=20
M14 VSS VBAT2 net6 VSS sg13_hv_nmos w=200u l=2u ng=20
M15 net4 net5 Vboot Vboot sg13_hv_pmos w=1u l=0.5u ng=1
M16 net5 net4 Vboot Vboot sg13_hv_pmos w=3u l=0.5u ng=1
M17 TRIG net5 Vboot Vboot sg13_hv_pmos w=195u l=0.5u ng=65
M18 Vsource Q net4 Vsource sg13_hv_nmos w=3u l=0.5u ng=1
M19 Vsource QN net5 Vsource sg13_hv_nmos w=3u l=0.5u ng=1
M20 Vsource net5 TRIG Vsource sg13_hv_nmos w=72u l=0.5u ng=24
M21 Q RESET Vboot Vboot sg13_hv_pmos w=5u l=3u ng=10
M22 Q QN Vboot Vboot sg13_hv_pmos w=5u l=3u ng=10
M23 net11 RESET Q Vsource sg13_hv_nmos w=5u l=3u ng=10
M24 Vsource QN net11 Vsource sg13_hv_nmos w=5u l=3u ng=10
M25 QN Q Vboot Vboot sg13_hv_pmos w=5u l=3u ng=10
M26 QN SET Vboot Vboot sg13_hv_pmos w=5u l=3u ng=10
M27 net12 Q QN Vsource sg13_hv_nmos w=5u l=3u ng=10
M28 Vsource SET net12 Vsource sg13_hv_nmos w=5u l=3u ng=10
x1 net8 IN VDD VSS sg13g2_inv_1
x2 predly net8 VDD VSS sg13g2_inv_1
x3 net9 predly VDD VSS sg13g2_inv_1
x4 net10 predly VDD VSS sg13g2_inv_1
x5 dly8 net9 VDD VSS sg13g2_inv_1
x6 net7 dly8 VDD VSS sg13g2_inv_1
x7 VFE net10 dly8 VDD VSS sg13g2_and2_1
x8 VRE net7 predly VDD VSS sg13g2_and2_1
C2 dly8 VSS cap_cmim w=80.0e-6 l=40.0e-6 m=3
C1 Vboot Vsource cap_cmim w=100.0e-6 l=42.0e-6 m=56
M29 Vboot Vboot VBAT Vboot sg13_hv_pmos w=6u l=0.5u ng=1
**** begin user architecture code




**** end user architecture code
.ends


